US03968142
25 ml of thionyl chloride are added dropwise to a solution of 20.4 g of methyl-(para-cyclohexylphenyl)-carbinol in 100 ml of benzene and 3 ml of pyridine, and the mixture then refluxed for 5 hours. It is then poured on to ice, the aqueous mixture is extracted with ether, and the ethereal solution washed with sodium bicarbonate solution and water. When the solution is dried and the ether evaporated, α-methyl-para-cyclohexyl-benzyl chloride is obtained in the form of a dark viscous liquid which is processed directly.

reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl-(para-cyclohexylphenyl)-carbinol | 20.4 g | CC(O)C1=CC=C(C=C1)C1CCCCC1 | C14H20O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | α-methyl-para-cyclohexyl-benzyl chloride | CC(C1=CC=C(C=C1)C1CCCCC1)Cl | C14H19Cl
